US08791255B2
The product is prepared according to the procedure described in Example 5, using 260 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate and 294 mg of 2-(3-aminophenoxy)ethanol in place of the 2,4-difluoroaniline. 180 mg of N-[3-(2-hydroxyethoxy)phenyl]-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained in the form of a pinkish solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 260 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 2-(3-aminophenoxy)ethanol | 294 mg | NC=1C=C(OCCO)C=CC1 | C8H11NO2
product | N-[3-(2-hydroxyethoxy)phenyl]-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | 180 mg | OCCOC=1C=C(C=CC1)NC(CC=1NC(C=C(N1)N1CCOCC1)=O)=O | C18H22N4O5
